datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1c2ccccc2cc[n+:21]1[H:20].Clc1ccc([NH2:10])c(Cl)c1>>COc1c2ccccc2cc[n:21]1.Clc1ccc([NH2+:10][H:20])c(Cl)c1 10=20;20,21=21",
"CC[Si](C)(C)C[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[Si](C)(C)C[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"OC[C@@H]1CC[N+:21]2([H:20])CC[C@H](O)[C@H]12.c1cnc2c(c1)ccc1c3c(c[n:10]c12)CCCC3>>OC[C@@H]1CC[N:21]2CC[C@H](O)[C@H]12.c1cnc2c(c1)ccc1c3c(c[n+:10]([H:20])c12)CCCC3 10=20;20,21=21",
"CSc1c[n+:21]([H:20])c2ccccc2n1.O=C(C(O)c1ccccc1[N+](=O)[O-])[O-:10]>>CSc1c[n:21]c2ccccc2n1.O=C(C(O)c1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"CC(=O)NC(C[S-:10])C(=O)[O-].COc1ccc[n+:21]([H:20])c1C=O>>CC(=O)NC(C[S:10][H:20])C(=O)[O-].COc1ccc[n:21]c1C=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])C(NCC[NH:10]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C([O-])C(NCC[NH+:10](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"CCOc1ccc2[nH]c(CC)[n+:21]([H:20])c2c1.O=C1CCC(C(=O)[O-:10])N1>>CCOc1ccc2[nH]c(CC)[n:21]c2c1.O=C1CCC(C(=O)[O:10][H:20])N1 10=20;20,21=21",
"CC(=CC(N)=O)[O:21][H:20].COc1cc2c(cc1OC)[C@@H]1Cc3cc(OC)c([O-:10])cc3[C@@H](C2)N1C>>CC(=CC(N)=O)[O-:21].COc1cc2c(cc1OC)[C@@H]1Cc3cc(OC)c([O:10][H:20])cc3[C@@H](C2)N1C 10=20;20,21=21",
"C[NH:10]CC(O)c1cccc(O)c1.NS(=O)(=O)c1ccc(C[NH2+:21][H:20])cc1>>C[NH+:10](CC(O)c1cccc(O)c1)[H:20].NS(=O)(=O)c1ccc(C[NH2:21])cc1 10=20;20,21=21",
"C(=C/c1cc[n+:21]([H:20])cc1)\c1ccccc1.C[NH2+]C(C)C(=O)[O-:10]>>C(=C/c1cc[n:21]cc1)\c1ccccc1.C[NH2+]C(C)C(=O)[O:10][H:20] 10=20;20,21=21",
"OCCOCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCCOCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N+](CC)(c1ccccc1)[O-:10].C[NH+](C)CCCNc1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CC[N+](CC)(c1ccccc1)[O:10][H:20].C[NH+](C)CCCNc1cc[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CC(/N=N/[O:21][H:20])c1ccccc1.CN1CCCC2CC[N:10]=C21>>CC(/N=N/[O-:21])c1ccccc1.CN1CCCC2CC[N+:10]([H:20])=C21 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(=O)O.COC(=O)c1cccc([N-:10]C=S)c1>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(=O)O.COC(=O)c1cccc([N:10](C=S)[H:20])c1 10=20;20,21=21",
"CC1=CC(=O)Oc2ccc([O-:10])cc21.Cc1ccc(/C=C/C(=O)[O:21][H:20])cc1>>CC1=CC(=O)Oc2ccc([O:10][H:20])cc21.Cc1ccc(/C=C/C(=O)[O-:21])cc1 10=20;20,21=21",
"C#CCCCCCC[NH2:10].Fc1ccc2[nH]c[n+:21]([H:20])c2c1>>C#CCCCCCC[NH2+:10][H:20].Fc1ccc2[nH]c[n:21]c2c1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cncc(CCCC[NH2:10])c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cncc(CCCC[NH2+:10][H:20])c1 10=20;20,21=21",
"Nc1cc(N)c2cccnc2c1[O-:10].O=C(c1ccc([N+](=O)[O-])c2cccnc12)[O:21][H:20]>>Nc1cc(N)c2cccnc2c1[O:10][H:20].O=C(c1ccc([N+](=O)[O-])c2cccnc12)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCc1c2ccccc2[n:10]c2ccccc12.Cc1cc([N+](=O)[O-])cc(C)c1[NH2+:21][H:20]>>CCCCCCCCCCCCCCCCCc1c2ccccc2[n+:10]([H:20])c2ccccc12.Cc1cc([N+](=O)[O-])cc(C)c1[NH2:21] 10=20;20,21=21",
"CC(C)NNC1CC[N+:21](C(C)C)([H:20])CC1.CCC[NH:10]CCC>>CC(C)NNC1CC[N:21](C(C)C)CC1.CCC[NH+:10](CCC)[H:20] 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O:21][H:20].CS(=O)(=O)c1ccc([O-:10])cc1>>CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:21].CS(=O)(=O)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc([NH2+:21][H:20])c(C)c1.c1cc[n:10]c(-c2ccn[nH]2)c1>>Cc1ccc([NH2:21])c(C)c1.c1cc[n+:10]([H:20])c(-c2ccn[nH]2)c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+][C@H]1C[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+][C@H]1C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Nc1ccc2cnc[n+:21]([H:20])c2c1.c1ccc(CNc2nc[nH+]c3[nH]c[n:10]c23)cc1>>Nc1ccc2cnc[n:21]c2c1.c1ccc(CNc2nc[nH+]c3[nH]c[n+:10]([H:20])c23)cc1 10=20;20,21=21",
"Cc1cc(/N=N/c2nc3ccccc3s2)c([O-:10])c2ncccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(/N=N/c2nc3ccccc3s2)c([O:10][H:20])c2ncccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(=O)SCC[N+:21](C)(C)[H:20].CCCC(=O)N[O-:10]>>CCC(=O)SCC[N:21](C)C.CCCC(=O)N[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cncc(CC[NH2:10])c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cncc(CC[NH2+:10][H:20])c1 10=20;20,21=21",
"Fc1ccc2[nH]c[n+:21]([H:20])c2c1.O=[N+]([O-])c1ccc(C(=S)[N-:10]c2ccccc2)cc1>>Fc1ccc2[nH]c[n:21]c2c1.O=[N+]([O-])c1ccc(C(=S)[N:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC[N+:21](C)(NC)[H:20].Oc1ccc(F)cc1C[N:10]1CCOCC1>>CC[N:21](C)NC.Oc1ccc(F)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"O=C([O-])C(Cc1c[nH]cn1)[NH2:10].OC(c1ccccc1)[O:21][H:20]>>O=C([O-])C(Cc1c[nH]cn1)[NH2+:10][H:20].OC(c1ccccc1)[O-:21] 10=20;20,21=21",
"CC(C)(C)[O-:10].CN(C)CCN(C)CC[N+:21](C)(C)[H:20]>>CC(C)(C)[O:10][H:20].CN(C)CCN(C)CC[N:21](C)C 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)(c1ccccc1)[NH2+:21][H:20].[N-]=[N+]=Nc1ncnc2nc[n-:10]c12>>CC(C)(c1ccccc1)[NH2:21].[N-]=[N+]=Nc1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
